US04202978
N-(4-Hydroxyphenyl)-4-phenyl-1-piperazinehexanamide
A solution of 45.7 g (0.16 mol) of 6-bromo-N-(4-hydroxyphenyl)hexanamide, 26.0 g (0.16 mol) of 1-phenylpiperazine and 22.4 ml (16.3 g, 0.16 mol) of triethylamine in 400 ml of ethanol was heated under reflux overnight and then concentrated under vacuum. The residue was mixed with sodium bicarbonate solution and trichloromethane. The resulting suspension was filtered. The solid was recrystallized from ethanol-water and then from acetonitrile to give the end product as tan crystals, mp 157°-159°.

reactant | 6-bromo-N-(4-hydroxyphenyl)hexanamide | 0.16 mol, 45.7 g | BrCCCCCC(=O)NC1=CC=C(C=C1)O | C12H16BrNO2
reactant | 1-phenylpiperazine | 0.16 mol, 26.0 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 0.16 mol, 22.4 ml, 16.3 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | N-(4-Hydroxyphenyl)-4-phenyl-1-piperazinehexanamide | OC1=CC=C(C=C1)NC(CCCCCN1CCN(CC1)C1=CC=CC=C1)=O | C22H29N3O2
